US04140713
a. 5-Acetyl-2-dimethylaminobenzenesulphonamide
A mixture of 5-acetyl-2-chloro-benzenesulphonamide (0.5 g) in ethanol (10 ml) and dimethylamine in ethanol (33%, 5 ml) was heated in a closed vessel on a steam bath for 16 hours. The solvents were removed under reduced pressure and the residue crystallised from ethanol to give the product 0.31 g, m.p. 184°-185°.

reactant | 5-acetyl-2-chloro-benzenesulphonamide | 0.5 g | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)Cl | C8H8ClNO3S
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-Acetyl-2-dimethylaminobenzenesulphonamide | 0.31 g | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)N(C)C | C10H14N2O3S
